US07109219B2
Phenyl N-(4-(1-cyclopentylaminocarbonyl-1H-indol-5-yloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate
N1-Cyclopentyl-5-(2-aminopyridin-4-yloxy)-1H-1-indolecarboxamide (1.55 g, 4.58 mmol) was dissolved in tetrahydrofuran (90 ml); triethylamine (1.43 ml, 10.31 mmol) and pyridine (0.56 ml, 6.88 mmol) were added thereto; and the reaction mixture was stirred. The reaction mixture was cooled with ice; phenyl chloroformate (1.44 ml, 11.45 mmol) was added dropwise; and the reaction mixture was stirred at room temperature for 2.5 hours. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia BW-300; hexane:ethyl acetate=1:1, 1:3 in this order) to yield the title compound as a colorless amorphous solid (2.516 g, 4.36 mmol, 95.2%).

reactant | N1-Cyclopentyl-5-(2-aminopyridin-4-yloxy)-1H-1-indolecarboxamide | 4.58 mmol, 1.55 g | C1(CCCC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C19H20N4O2
reactant | triethylamine | 10.31 mmol, 1.43 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine | 6.88 mmol, 0.56 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 11.45 mmol, 1.44 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Phenyl N-(4-(1-cyclopentylaminocarbonyl-1H-indol-5-yloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate | 4.36 mmol, 2.516 g, 95.2% | C1(CCCC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N(C(OC1=CC=CC=C1)=O)C(=O)OC1=CC=CC=C1 | C33H28N4O6
